US04304728
A solution of 2-methyl-2-(2-oxopropyl)-1,3-dioxolane (49 g) and diethyl oxalate (55 ml) in ethanol (50 ml) was added over 30 minutes to a stirred, cooled, solution of sodium ethoxide prepared by dissolving sodium (9.4 g) in ethanol (150 ml). The solution was stirred for 5 hours at room temperature and then acidified with 5 M hydrochloric acid (200 ml) and then stirred for a further hour. The mixture was diluted with water (800 ml) and extracted with ethyl acetate, the extract was dried and evaporated and the residue was distilled under vacuum (bp 110°-120° C./0.2 mm). The distillate (53.8 g) was crystallised from ether-petroleum ether 40°-60° C. to give ethyl 6-methyl-4-oxo-4H-pyran-2-carboxylate (mp 35°-38° C.).

reactant | 2-methyl-2-(2-oxopropyl)-1,3-dioxolane | 49 g | CC1(OCCO1)CC(C)=O | C7H12O3
reactant | diethyl oxalate | 55 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 9.4 g | [Na] | Na
reactant | hydrochloric acid | 5 M, 200 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 800 ml | O | H2O
product | ethyl 6-methyl-4-oxo-4H-pyran-2-carboxylate | CC1=CC(C=C(O1)C(=O)OCC)=O | C9H10O4
